datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([O:4][O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8].[O:15]([O:16][H:18])[H:17]>>[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([O:4][O:5][H:17])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8].[O:15][O:16][H:18],41.84
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[S:12]=[C:13]([C:14]([S:15][H:19])([H:17])[H:18])[H:16]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[H:17])[H:7])([H:5])[H:6].[S:12]=[C:13]([C:14]([S:15][H:19])[H:18])[H:16],27.196
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[O:24]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[H:16][O:24],8.811504
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([H:14])([H:15])[H:16])[C:7]#[C:8][H:17])([H:12])[H:13])[H:11])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([H:11])[C:4]([H:12])([H:13])[C:5]1([C:6]([H:14])([H:15])[H:16])[C:7]#[C:8][H:17])[H:9],157.235
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[C:13]([O:14][O:15])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([C:3]([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][O:15][O:14][C:13]([H:16])([H:17])[H:18],73.55472
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:14])([H:15])[H:16])([H:9])[H:13])([H:11])[H:12])[H:10])[H:8])([H:6])[H:7],127.612
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:15])[H:16])[H:14])[C:6]([C:7]([C:8]([C:9]([H:22])([H:23])[H:24])[H:21])([H:19])[H:20])([H:17])[H:18])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([H:13])[C:3]([C:4](=[C:5]([H:15])[H:16])[H:14])[C:6]([H:17])([H:18])[C:7]([H:19])([H:20])[C:8]1([C:9]([H:22])([H:23])[H:24])[H:21])[H:12])([H:10])[H:11],59.0781
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[C:21]([C:22]([C:23]([H:28])([H:29])[H:30])[H:27])([H:24])([H:25])[H:26]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[C:22]([C:21]([H:24])([H:25])[H:26])([C:23]([H:28])([H:29])[H:30])[H:27])[H:11],20.0414
[C:0]([C:1](=[C:2]([H:6])[H:7])[H:5])([H:3])[H:4].[O:8][O:9]>>[C:0](=[C:1]=[C:2]([H:6])[H:7])([H:3])[H:4].[H:5][O:8][O:9],56.6932
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([c:11]1[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]1[H:23])([H:17])[H:18]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])([H:5])[C:10]([c:11]1[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]1[H:23])([H:17])[H:18],27.1542
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[c:21]1[c:22]([H:27])[c:23]([H:28])[c:24]([H:29])[c:25]([H:30])[c:26]1[H:31]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:12])[c:21]1[c:22]([H:27])[c:23]([H:28])[c:24]([H:29])[c:25]([H:30])[c:26]1[H:31])[H:11],-5.14632
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11]>>[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])([H:3])[H:12].[C:7](=[C:8]([C:9]([H:14])([H:15])[H:16])[H:13])([H:10])[H:11],0.0
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[C:10]([C:11]([c:12]1[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]1[H:26])[H:21])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[C:11]([C:10]([H:18])([H:19])[H:20])([c:12]1[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]1[H:26])[H:21])([H:4])[H:5],41.84
[C:0](=[C:1]([C:2](=[O:3])[H:7])[H:6])([H:4])[H:5].[O:8][O:9][H:10]>>[C:0](=[C:1]([C:2]=[O:3])[H:6])([H:4])[H:5].[H:7][O:8][O:9][H:10],49.87328
[C:0]([C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[Cl:17]>>[C:0]([C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:16])([H:14])[H:15])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:12][Cl:17],1.24967
[C:0](=[C:1][C:2]([c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])([H:11])[H:12])([H:9])[H:10]>>[C:0](=[C:1]([C:2]([c:3]1[c:4][c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])([H:11])[H:12])[H:13])([H:9])[H:10],101.177488
